US04283341
To a refluxing suspension of copper powder (5.0 g,) 0.079 mole) in 240 ml of n-octane was added dropwise in one hour a solution of ethyl (±)-3-methyl-1-trichloromethyl-2-butenyl diazomalonate (5.0 g, 0.0146 mole) in 60 ml of n-octane. The reaction mixture was then heated under reflux for 21/2 hours and filtered. The n-octane was removed from the filtrate by evaporation under vacuum, yielding a residue which was distilled under vacuum to give ethyl (±)-4-trichloromethyl-6,6-dimethyl-2-oxo-3-oxabicyclo-[3.1.0]hexane-1-carboxylate as a highly viscous oil (2.47 g, 54% yield); bp, 123°-125°/0.3 mm.

reactant | ethyl (±)-3-methyl-1-trichloromethyl-2-butenyl diazomalonate | 0.0146 mole, 5.0 g | [N+](=[N-])=C(C(=O)OCC)C(=O)OC(C=C(C)C)C(Cl)(Cl)Cl | C11H13Cl3N2O4
solvent | n-octane | 240 ml | CCCCCCCC | C8H18
solvent | n-octane | 60 ml | CCCCCCCC | C8H18
catalyst | copper | 0.079 mole, 5.0 g | [Cu] | Cu
product | ethyl (±)-4-trichloromethyl-6,6-dimethyl-2-oxo-3-oxabicyclo-[3.1.0]hexane-1-carboxylate | ClC(C1OC(C2(C(C12)(C)C)C(=O)OCC)=O)(Cl)Cl | C11H13Cl3O4
